US06241964B1
Step 5: 2-Hydroxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzaldehyde
To a 2 L nitrogen purged round bottom flask fitted with a condenser was charged 67.7 g (0.29 mol) of 4-(5-trifluoromethyl-tetrazol-1-yl)-phenol, 540 mL trifluoroacetic acid, and 86.3 g (0.62 mol, 2.1 eq) of hexamethylenetetramine. The solution was heated to reflux and refluxed for 4 h. An additional 10 g (0.07 mol, 0.24 equiv) of hexamethylenetetramine was added and the solution refluxed overnight. The reaction was cooled and poured slowly into 3 L of 1N H2SO4. The suspension was diluted with an additional 500 mL of water and aged at room temperature for 30 min and at 0° C. and for additional 30 min. The yellow suspension was filtered and the cake washed with water until the filtrate was neutral. The cake was dissolved in methylene chloride and filtered through 300 g of Silica Gel 60 (70-230 mesh) and flushed with 6 L of methylene chloride. The solvent was removed in vacuo and the residue flushed with hexanes. The resulting slurry was cooled to room temperature and filtered. The white crystalline product that was obtained was dried yielding 50.4 g (66.4% yield) of the title compound. An additional 6.9 g (9.1%, for a combined yield of 57.3 g, 75.5% yield) was obtained by extracting the aqueous filtrate with ether and chromatographing (Silica Gel 60, methylene chloride): 1H NMR (CDCI3) δ 7.23 (d, J=9 Hz, 1H), 7.62 (dd, J=9, 2 Hz, 1H), 7.73 (d, J=2.5 Hz, 1H), 9.96 (s, 1H). MS (EI) m/z 258. Anal. Calcd for C9H5F3N4O2: C, 41.87; H, 1.95; F, 22.08; N, 21.70. Found: C, 41.87; H, 1.98; F, 22.61; N, 21.74.

reactant | 4-(5-trifluoromethyl-tetrazol-1-yl)-phenol | 0.29 mol, 67.7 g | FC(C1=NN=NN1C1=CC=C(C=C1)O)(F)F | C8H5F3N4O
reactant | trifluoroacetic acid | 540 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylenetetramine | 0.62 mol, 86.3 g, 2.1 eq | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | hexamethylenetetramine | 0.07 mol, 10 g, 0.24 equiv | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | H2SO4 | 1N, 3 L | OS(=O)(=O)O | H2O4S
solvent | water | 500 mL | O | H2O
product | 2-Hydroxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzaldehyde | 50.4 g, 66.4% yield | OC1=C(C=O)C=C(C=C1)N1N=NN=C1C(F)(F)F | C9H5F3N4O2
